US04217346
[II; Ar is 2-Cl-4-CH3OC6H3, Y is O(CH2)6, R is C2H5, R' is CH3CO] was prepared from 0.47 g of lithium hydride, 11.6 g of diethyl acetonylphosphonate and 22 g of 6-(2-chloro-4-methoxyphenoxy)hexyl iodide according to the procedure of Example 2(b). The product was chromatographed on Florisil and further purified by preparative TLC on silica gel to give 5.0 g of diethyl [1-acetyl-7-(2-chloro-4-methoxyphenoxy)heptyl]phosphonate as a yellow oil; MIC vs. herpes simplex type 2=6 mcg/ml. The IR and NMR spectra were consistent with the assigned structure.

reactant | lithium hydride | 0.47 g | [H-].[Li+]
reactant | diethyl acetonylphosphonate | 11.6 g | C(C(=O)C)P(OCC)(OCC)=O | C7H15O4P
reactant | 6-(2-chloro-4-methoxyphenoxy)hexyl iodide | 22 g | ClC1=C(OCCCCCCI)C=CC(=C1)OC | C13H18ClIO2
product | diethyl [1-acetyl-7-(2-chloro-4-methoxyphenoxy)heptyl]phosphonate | 5.0 g | C(C)(=O)C(CCCCCCOC1=C(C=C(C=C1)OC)Cl)P(OCC)(OCC)=O | C20H32ClO6P
